US09253997B2
Synthesis of (4S)-4-(N-tert-butoxycarbonylamino)-4-(carbamoyl)butanoic acid
1010 mg (3.0 mmol) of Boc-Glu (OBzl)-OH, 316 μl (3.3 mmol) of ethyl chloroformate and 460 μl (3.3 mmol) of triethylamine were suspended in 12.0 ml of tetrahydrofuran, to which 2.0 ml of a concentrated aqueous ammonia solution was added. Following agitation at room temperature overnight, the resultant was subjected to extraction with ethyl acetate/water. The organic layer was washed with saturated saline and then sodium sulfate was added for drying. The organic layer was subjected to vacuum condensation, and the resulting residue was added with 100 mg of 10% Pd/C and 12.0 ml of methanol and stirred at room temperature overnight in a hydrogen atmosphere under a normal pressure. After the reaction, the catalyst was filtrated away and the solvent was distilled away to obtain a crude purified substance of the title compound.

reactant | Boc-Glu (OBzl)-OH | 3.0 mmol, 1010 mg | CC(C)(C)OC(=O)N[C@@H](CCC(=O)OCC1=CC=CC=C1)C(=O)O | C17H23NO6
reactant | ethyl chloroformate | 3.3 mmol, 316 μl | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 3.3 mmol, 460 μl | C(C)N(CC)CC | C6H15N
reactant | ammonia | 2.0 ml | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 12.0 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 100 mg | [Pd] | Pd
solvent | methanol | 12.0 ml | CO | CH4O
product | (4S)-4-(N-tert-butoxycarbonylamino)-4-(carbamoyl)butanoic acid | C(C)(C)(C)OC(=O)N[C@@H](CCC(=O)O)C(N)=O | C10H18N2O5
